* C:\Users\moge3\Downloads\elec\LTspice\ac-dc-rectifier-circuit.asc
V1 N001 0 SINE(0 220 50) Rser=0.1
L1 N001 0 3.2
L2 0 N002 5.35m
D1 N003 0 D
D2 N003 N002 D
D3 N002 N004 D
D4 0 N004 D
C1 N004 N003 2200µ
C2 N004 N003 2200µ
XU1 N003 N005 N004 LT1117-5
D5 N005 N006 D
R1 N006 N003 330
.model D D
.lib C:\Users\moge3\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 0.2
K L1 L2 1
.lib LT1117.lib
.backanno
.end
